US08202873B2
4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.183 g, 0.708 mmol) in DCE (8.5 mL). Add 1-ethyl-5-methyl-1H-pyrazole-4-carbaldehyde (0.117 g, 0.850 mmol) followed by sodium triacetoxyborohydride (0.225 g, 1.06 mmol) and stir at room temperature for 18 hr. Purify via SCX chromatography, followed by silica gel chromatography, eluting with 50:50 then 0:100 hexanes:ethyl acetate then 10:90 methanol:ethyl acetate, followed by reverse phase chromatography to give the free base of the title compound (149 mg, 55%). Dissolve the free base (0.138 g, 0.363 mmol) in methanol and add a solution of ammonium chloride (0.019 g, 0.363 mmol) in a minimal volume of methanol. Shake for 18 hr. at ambient temperature and concentrate to give the title compound (149 mg, 99%). MS (ES): m/z=381 [M+H]+.

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.708 mmol, 0.183 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 1-ethyl-5-methyl-1H-pyrazole-4-carbaldehyde | 0.850 mmol, 0.117 g | C(C)N1N=CC(=C1C)C=O | C7H10N2O
reactant | sodium triacetoxyborohydride | 1.06 mmol, 0.225 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 8.5 mL | ClCCCl | C2H4Cl2
product | 4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 149 mg, 55% | Cl.C(C)N1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F | InChI=1S/C21H25FN6.ClH/c1-3-28-16(2)18(14-25-28)15-26-10-12-27(13-11-26)21-20(23-8-9-24-21)17-4-6-19(22)7-5-17;/h4-9,14H,3,10-13,15H2,1-2H3;1H
